US06127396
Step 1: 2-Amino-2-methyl-3-(3,4-dihydro-naphth-2-yl)propionitrile
To a solution of 6.50 g (35 mmol) of 1-(3,4-dihydronaphth-2-yl)propan-2-one in a mixture of 41 ml of CH3OH and 20 ml of water there are added, in succession, all at once, 2.34 g (36 mmol) of KCN and 1.93 g (36 mmol) of NH4Cl. After stirring for 72 hours at 20° C., the mixture is diluted with H2O and extracted with CH2Cl2 (4×50 ml). The solvents are evaporated off; the residue is taken up in Et2O and extracted again with 1N HCl (3×40 ml). The combined aqueous phases are rendered alkaline with 6N NaOH and then extracted with CH2Cl2 (3×50 ml). After drying and concentrating the organic phases, the title compound is obtained in the form of a yellow oil, which is used directly for the following reaction.

reactant | 1-(3,4-dihydronaphth-2-yl)propan-2-one | 35 mmol, 6.50 g | C1=C(CCC2=CC=CC=C12)CC(C)=O | C13H14O
reactant | KCN | 36 mmol, 2.34 g | [C-]#N.[K+]
reactant | NH4Cl | 36 mmol, 1.93 g | [NH4+].[Cl-]
solvent | CH3OH | 41 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 2-Amino-2-methyl-3-(3,4-dihydro-naphth-2-yl)propionitrile | NC(C#N)(CC1=CC2=CC=CC=C2CC1)C | C14H16N2
